data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21](C)(C)[CH:22](CC(C(C)C)Br)[Br:23].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC(C)C(C[CH:22]=[C:21](C)C)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
CC1=C(S[C:11](=[C:10](CCCOCC2=CC=CC=C2)O)[N:12]1CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)CCO.C1=CC(=NC=C1)[C:22](=[O:23])[CH:21]=[CH:20]C2=CC=CO2.CC[NH+](CC)CC.CCO.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+:12]3=[C:11](SC(=C3C)CCO)[C:10](CCCOCC4=CC=CC=C4)([CH:20]([CH:21]=[C:22](C5=NC=CC=C5)[O-:23])C6=CC=CO6)O)CCO.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC[SH:10].CC(=O)O[C:20](=[OH+:21])C=C>>CC[SH+:10][C:20](C=C)([OH:21])OC(=O)C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(CCC(=O)NC)(O)[O:10]C>>[H:20][O+:10](C)C(CCC(=O)NC)(O)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[BH3-][P+](C)(C)[CH2-:10].[CH3:20][Br:21]>>[BH3-][P+](C)(C)[CH2:10][CH3:20].[Br-:21] 10=20;20,21=21
C1=CC2=C(C(=C(N=C2C=C1)O[P:20]([O-:10])(Cl)(Cl)[Cl:21])[N+](=O)[O-])O.CC[NH+](CC)CC>>C1=CC2=C(C(=C(N=C2C=C1)O[P:20](=[O:10])(Cl)Cl)[N+](=O)[O-])O.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][O:21]C1=CC=CC(=C1C(C(C(=O)OC(=O)C)NC(=O)C2=CC=CC=C2)OC(=O)C)OC.C(=O)([O-:10])O[K].CC(=O)[O-].C(=O)(O)O[K].[K+]>>[H:20][O:10]C(=O)O[K].CC(=O)OC(C1=C(C=CC=C1[O-:21])OC)C(C(=O)OC(=O)C)NC(=O)C2=CC=CC=C2.CC(=O)[O-].C(=O)(O)O[K].[K+] 10=20;20,21=21
[H:20][Br:21].CC1(CCC[CH:10]=[C:11]1C2=CC=CC=C2)C>>[H:20][CH:10]1CCCC([C+:11]1C2=CC=CC=C2)(C)C.[Br-:21] 10,11=10,20;20,21=21
[B:20](F)(F)F.CCC[O:10]COC>>[B-:20]([O+:10](CCC)COC)(F)(F)F 10=20,
C[S:10]C[CH2:20][Cl:21]>>C[S+:10]1C[CH2:20]1.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([C:22](=[C:23]([C:24](=[NH+:25]1)C)CCC(=O)OC)C)C(OC)OC.C(=O)(C(F)(F)F)[O-:10].CO>>[H:20][O:10]C(=O)C(F)(F)F.C[C:22]1=[C:21]([NH:25][C:24](=[C:23]1CCC(=O)OC)C)C(OC)OC.CO 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]C(C1=CC=C(C=C1)F)(C2=[N+](C(=C(S2)CCO)C)CC)C(C3=CC=CC=C3)C(C(=O)C(C)C)C(=O)NC4=CC=CC=C4.CC[N:10](CC)CC.[Br-]>>[H:20][N+:10](CC)(CC)CC.CC[N+]1=C(SC(=C1C)CCO)C(C2=CC=C(C=C2)F)(C(C3=CC=CC=C3)C(C(=O)C(C)C)C(=O)NC4=CC=CC=C4)[O-:21].[Br-] 10=20;20,21=21
[H:20][N+:21]1(CCCCC1)C(C2=CC=C(C=C2)C)O.CC(=O)[O-:10].CC(C)(C)CC(=O)CC#N>>[H:20][O:10]C(=O)C.CC1=CC=C(C=C1)C([N:21]2CCCCC2)O.CC(C)(C)CC(=O)CC#N 10=20;20,21=21
[H:10][C:11]1(CCC(CC1C)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(C[CH+]C[Si](C)(C)C)O[Ti-:10](Cl)(Cl)(Cl)[Cl:11]>>CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(C[CH+]C[Si](C)(C)C)O[Ti:10](Cl)(Cl)Cl.[Cl-:11] 10,11=11
CC(=O)O[C:20](=[O:21])C.CN(C)C1=CC=[N:10]C=C1.CCN(CC)CC.CC(C)(C)O.CO>>CC(=O)O[C:20](C)([N+:10]1=CC=C(C=C1)N(C)C)[O-:21].CCN(CC)CC.CC(C)(C)O.CO 10=20;20,21=21
C=CC[NH2:10].C1=CC=C(C=C1)CCC([CH:20]=[O:21])O.B(C=CC1=CC=CC=C1)(O)O.C=CC[NH3+]>>C=CC[NH2+:10][CH:20](C(CCC1=CC=CC=C1)O)[O-:21].B(C=CC1=CC=CC=C1)(O)O.C=CC[NH3+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC2=C(C=CC=C2)C=C1.C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C.C1=CC2=C(C=C1)C=C(C=C2)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2C[CH:10]=[CH:11]C2C3CCCCC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1CCC(CC1)C2[CH+:11][CH:10]3[CH2:20]CC2C3 10,11=10,20;20,21=21
CCC(=O)O[C:20](=[O:21])CC.[OH-:10]>>CCC(=O)O[C:20](CC)([OH:10])[O-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH3:20].C1=CC=C(C=C1)C[NH2:10]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[CH3:20][NH2+:10]CC1=CC=CC=C1 10=20;20,21=21
C1CC[C:20](C1)([N:10]2CCOCC2)[OH:21].C1COCCN1.C1=CC=CC=C1>>C1CC[C:20](=[N+:10]2CCOCC2)C1.[OH-:21].C1COCCN1.C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]CC#CC1=CC=CC(=C1)F.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC(=CC(=C1)C#CC[O-:21])F.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC([O-:10])OCC[C:20](=[O:21])OC>>CC1OCC[C:20]([O:10]1)([O-:21])OC 10=20;20,21=21
CC(=O)CCC1C2(CCCC(C2CC[C:10]1(C)[OH2+:11])(C)C)C.[I-]>>C[C+:10]1CCC2C(CCCC2(C1CCC(=O)C)C)(C)C.[OH2:11].[I-] 10,11=11
[H:20][OH+:21]C(CC(=O)C)(O)OCC.[OH2:10]>>CCOC(CC(=O)C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
CCC(CO)[NH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH3:20]>>CCC(CO)[NH2+:10][CH3:20].CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC(CC[CH:20](C)[Br:21])[O-:10]>>CC1CC[CH:20]([O:10]1)C.[Br-:21] 10=20;20,21=21
C[CH:20](C)[Br:21].CN(C)[C:11](=[CH2:10])[O-:12]>>C[CH:20](C)[CH2:10][C:11](=[O:12])N(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
[CH:10]1=[CH:11]OC(=C1)C#N.O[S+:20](=O)=O>>C1=C(O[CH+:11][CH:10]1[S:20](=O)(=O)O)C#N 10,11=10,20
COC(=O)C1C2CC([NH:10]1)C=C2.[CH2:20]=[CH:21]C#N>>COC(=O)C1C2CC([NH+:10]1[CH2:20][CH-:21]C#N)C=C2 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC(C)(C)OC(=[O:10])C1(C2=C(CCN1)C3=C(N2)C=CC=C3)C(=O)CC4=CC=CC=C4>>[H:20][O+:10]=C(C1(C2=C(CCN1)C3=C(N2)C=CC=C3)C(=O)CC4=CC=CC=C4)OC(C)(C)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1(C=CC(O1)C2C(=O)OC3C2(OCC3O)O)[OH:10]>>[H:20][OH+:10]C1(C=CC(O1)C2C(=O)OC3C2(OCC3O)O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
